US09260408B2
N-((5-Bromopyridin-3-yl)methyl)-3-chloropicolinamide
In analogy to the procedure described for the preparation of example 75, coupling of (5-bromopyridin-3-yl)methanamine with 3-chloro-pyridine-2-carboxylic acid gave the title compound as off-white solid. MS: 326.2 and 328.2 (M+H+).

reactant | (5-bromopyridin-3-yl)methanamine | BrC=1C=C(C=NC1)CN | C6H7BrN2
reactant | 3-chloro-pyridine-2-carboxylic acid | ClC=1C(=NC=CC1)C(=O)O | C6H4ClNO2
product | N-((5-Bromopyridin-3-yl)methyl)-3-chloropicolinamide | BrC=1C=C(C=NC1)CNC(C1=NC=CC=C1Cl)=O | C12H9BrClN3O
